US20010006962A1
4-(elaidamido)-salicylic acid
To a solution of PAS (2.6 g, 17 mmol) in 100 ml anhydrous THF and 4 ml pyridine was added dropwise a solution of elaidic acid chloride (5.11 g, 17 mmol) in 20 ml THF at 0° C. The reaction mixture was stirred at ambient temperature for 24 hours. More elaidic acid chloride (1.0 g) was added, and after 4 hours, a small amount methanol was added. The solvents were evaporated at high vacuum, and the residue was partitioned between ether and water. The organic phase was washed with tartaric acid (aq) and water. The solvent was evaporated off, and the residue was dissolved in 100 ml methanol to which was added 5 ml water. The solid deposit was filtered off and recrystallised from ethanol to give 3.9 g crude material. 1.5 g of this material was dissolved in 100 ml ethanol to which was added 11 ml 1M NaOH(aq). The mixture was stirred at ambient temperature for 2 hours and acidified with 30 ml 0.5M tartaric acid(aq). The solid deposit was washed with water, dissolved in ether, and the organic phase washed with tartaric acid(aq). The solvent was evaporated off, and the residue was evaporated from anhydrous chloroform x 2, to give 1.3 g(87%) of the title compound.

reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
reactant | elaidic acid chloride | 17 mmol, 5.11 g | C(CCCCCCC\C=C\CCCCCCCC)(=O)Cl | C18H33ClO
reactant | elaidic acid chloride | 1.0 g | C(CCCCCCC\C=C\CCCCCCCC)(=O)Cl | C18H33ClO
reactant | NaOH | 1M, 11 ml | [OH-].[Na+]
reactant | tartaric acid | 0.5M, 30 ml | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 4-(elaidamido)-salicylic acid | 1.3 g, 87% | C(CCCCCCC\C=C\CCCCCCCC)(=O)NC=1C=C(C(C(=O)O)=CC1)O | C25H39NO4
